US08536165B2
B. tert-Butyl 2-(6-(2-cyclopropylphenyl)-5-methylpyridin-3-ylamino)-5-methylbenzoate
Obtained (0.152 g, 63% of yield) following the procedure described in Example 14 (step C) starting with tert-butyl 2-(6-(2-chlorophenyl)-5-methylpyridin-3-ylamino)-5-methylbenzoate (0.49 mmol, 0.200 g) and cyclopropylboronic acid (1.47 mmol, 0.126 g).

reactant | tert-butyl 2-(6-(2-chlorophenyl)-5-methylpyridin-3-ylamino)-5-methylbenzoate | 0.49 mmol, 0.200 g | ClC1=C(C=CC=C1)C1=C(C=C(C=N1)NC1=C(C(=O)OC(C)(C)C)C=C(C=C1)C)C | C24H25ClN2O2
reactant | cyclopropylboronic acid | 1.47 mmol, 0.126 g | C1(CC1)B(O)O | C3H7BO2
product | tert-Butyl 2-(6-(2-cyclopropylphenyl)-5-methylpyridin-3-ylamino)-5-methylbenzoate | C1(CC1)C1=C(C=CC=C1)C1=C(C=C(C=N1)NC1=C(C(=O)OC(C)(C)C)C=C(C=C1)C)C | C27H30N2O2
